US05270327
1-(5,6-dichloroindan-1-carbonyl)-2-(pyrrolidin-1-ylmethyl)piperidine hydrochloride
From 1.18 g of 2-(pyrrolidin-1-ylmethyl)piperidine, and 1.87 g of 5,6-dichloroindan-1-carbonyl chloride. 0.51 g of the title compound was obtained melting at 245°-250° C. using a procedure similar to that in Example 1.

reactant | 2-(pyrrolidin-1-ylmethyl)piperidine | 1.18 g | N1(CCCC1)CC1NCCCC1 | C10H20N2
reactant | 5,6-dichloroindan-1-carbonyl chloride | 1.87 g | ClC=1C=C2CCC(C2=CC1Cl)C(=O)Cl | C10H7Cl3O
product | 1-(5,6-dichloroindan-1-carbonyl)-2-(pyrrolidin-1-ylmethyl)piperidine hydrochloride | 0.51 g | Cl.ClC=1C=C2CCC(C2=CC1Cl)C(=O)N1C(CCCC1)CN1CCCC1 | InChI=1S/C20H26Cl2N2O.ClH/c21-18-11-14-6-7-16(17(14)12-19(18)22)20(25)24-10-2-1-5-15(24)13-23-8-3-4-9-23;/h11-12,15-16H,1-10,13H2;1H
